US07618990B2
4-(1,3-Oxazol-4-yl)benzonitrile (130 mg, 0.76 mmol), prepared in the previous step, was dissolved in tetrahydrofuran (10 mL) and cooled to −78° C. Sodium bis(trimethylsilyl)amide (1M solution in tetrahydrofuran) (0.84 mL, 0.84 mmol) was added dropwise and the mixture was stirred for 30 min. A solution of iodine (0.23 g, 0.91 mmol) in tetrahydrofuran (5 mL) was added dropwise and the mixture was stirred at −78° C. for 1 h. The mixture was poured into a 1:1 mixture of aqueous sodium bicarbonate and sodium sulfite and extracted with methylene chloride. The organics were combined, washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (10% acetone in hexane) afforded 4-(2-iodo-1,3-oxazol-4-yl)benzonitrile (154 mg, 69%) as a white solid. HRMS: calcd for C10H51N2O, 295.94466; found (EI, M+), 295.9436; Analytical HPLC: purity 99.3% at 274 nm, 8.9 min; 99.5% at 210-370 nm, 8.9 min; the Xterra® RP18 column, 3.5%, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 4-(1,3-Oxazol-4-yl)benzonitrile | 0.76 mmol, 130 mg | O1C=NC(=C1)C1=CC=C(C#N)C=C1 | C10H6N2O
reactant | Sodium bis(trimethylsilyl)amide | 0.84 mmol, 1M, 0.84 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | iodine | 0.91 mmol, 0.23 g | II | I2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(2-iodo-1,3-oxazol-4-yl)benzonitrile | 154 mg, 69% | IC=1OC=C(N1)C1=CC=C(C#N)C=C1 | C10H5IN2O
